US07189713B2
A solution of ethyl 2,3-dibromopropionate (6 mL) in anhydrous toluene (50 mL) was added to a solution of N,N′-dibenzylethylenediamine (5 g) and DIPEA (12 mL) in anhydrous toluene (50 mL) under a Nitrogen atmosphere. The resulting mixture was heated to 100° C. for 21 hours, then allowed to cool to r.t., diluted with AcOEt (100 mL) and washed with brine (3×100 mL). The organic extract was dried and concentrated in vacua to a residue which was purified by flash chromatography (CH/AcOEt 9:1) to give ethyl 1,4-dibenzyl-piperazine-2-carboxylate (5.65 g) as a yellow oil, which was used without any purification in the next step. Diisobutylaluminium hydride (1M in toluene—29 mL) was dropped into a solution of ethyl 1,4-dibenzyl-piperazine-2-carboxylate (5.47 g) in anhydrous toluene (110 mL) previously cooled to −78° C. under a Nitrogen atmosphere. The solution was stirred at −78° C. for 1 hour, then a 20% sodium hydroxide solution (20 mL) was added and the mixture was allowed to warm to r.t. Further 20% sodium hydroxide solution (50 mL) was added and the solution was extracted with Et2O (2×150 mL). The combined organic extracts were dried and concentrated in vacuo to give the title compound (5.33 g) as a crude, which was used without any further purification in the next step.

reactant | ethyl 2,3-dibromopropionate | 6 mL | BrC(C(=O)OCC)CBr | C5H8Br2O2
reactant | N,N′-dibenzylethylenediamine | 5 g | C(C1=CC=CC=C1)NCCNCC1=CC=CC=C1 | C16H20N2
reactant | DIPEA | 12 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | AcOEt | 100 mL | CCOC(=O)C | C4H8O2
product | ethyl 1,4-dibenzyl-piperazine-2-carboxylate | 5.65 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)C(=O)OCC | C21H26N2O2
